US05773618
1-(3-Chloropropionyl)6-nitroindoline
8.2 g (50 mmol) of 6-nitroindoline (prepared as described in Preparation 4) were dissolved in 100 ml of acetone, and 6.35 g (50 mmol) of 3-chloropropionyl chloride were added to the solution while ice-cooling, which resulted in the reaction mixture becoming a suspension. This suspension was stirred at room temperature for 1 hour, after which it was heated under reflux for 2 hours, and formed a solution. The resulting solution was cooled to room temperature, and then 10% w/v aqueous hydrochloric acid was added, and the precipitated crystals were collected by filtration. The crystals thus obtained were dried over phosphorous pentoxide in a desiccator under reduced pressure by means of a vacuum pump overnight to obtain 12.7 g (50 mmol) of the title compound as crystals, melting at 127°-128° C. (yield: 100%).

reactant | 6-nitroindoline | 50 mmol, 8.2 g | [N+](=O)([O-])C1=CC=C2CCNC2=C1 | C8H8N2O2
reactant | 3-chloropropionyl chloride | 50 mmol, 6.35 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(3-Chloropropionyl)6-nitroindoline | 50 mmol, 12.7 g, yield: 100% | ClCCC(=O)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C11H11ClN2O3
